### PR TITLE
Prove `he_invs’`

### PR DESCRIPTION
**Pull request by mktnk3**
This proves `he_invs’` (`invs’` for `handleEvent`).

This also introduces three asserts for the properties we want to have in `handleEvent`, after the calls to first phase `handleInvocation` prior to `handleRecv`. In the proof for `handleEvent_corres` (which will be in a separate PR after this), we can validate these asserted properties by crossing over from the abstract side. For the proof in this PR, only one of the three asserts is needed (`ct_active’`).

### CODE REVIEW

File: spec/haskell/src/SEL4/Model/StateData.lhs [hunk 1]
```diff
@@ -448,3 +448,14 @@ is true using the rule cur_tcb'_cross.
 
 > cur_tcb'_asrt :: KernelState -> Bool
 > cur_tcb'_asrt _ = True
+
+Asserts for first phase, non-blocking, non-calling handle_invocation.
```
Comment (michaelmcinerney) [inline spec/haskell/src/SEL4/Model/StateData.lhs:452]: I suppose these asserts could be used elsewhere, so maybe we want to rephrase this comment

File: proof/refine/ARM/Syscall_R.thy [hunk 2]
```diff
@@ -2466,9 +2466,156 @@ crunches handleFault, receiveSignal, receiveIPC, asUser
...
+  and ksCurThread[wp]: "\<lambda>s. P (ksCurThread s)"
+  (wp: crunch_wps simp: crunch_simps)
+
+lemma getCurrentTime_invs'[wp]:
+  "doMachineOp getCurrentTime \<lbrace>invs'\<rbrace>"
+  apply (simp add: getCurrentTime_def modify_def)
+  apply (wpsimp wp: dmo_invs' simp: modify_def)
+  by (simp add: in_get put_def gets_def in_bind in_return)
+
+lemma invs'_ksCurTime_update[iff]:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:2561]: I'm not bothered if you don't move this, but I know there are some "update" rules for `invs'` in a much earlier file, and this might be better there

**Review by michaelmcinerney — APPROVED** [review]
Nice
